US07064207B2
1-Methyl-6-(piperidine-1-sulfonyl)-4-trifluoromethyl-1H-quinolin-2-one
A solution of 1-methyl-2-oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonyl chloride (Preparation 1, 65 mg, 200 μmol) in anhydrous DMF (1.5 mL) was treated with NEt3 (31 μL, 220 μmol) and piperidine (21 μL, 210 μmol), before being stirred overnight under N2. The reaction mixture was diluted with EtOAc (70 mL), before being washed with H2O (30 mL), 1 M HCl (30 mL), H2O (30 mL), saturated aqueous NaHCO3 (30 mL), H2O (30 mL), and brine (30 mL). After drying (MgSO4), the organic phase was filtered and concentrated to give a residue that was recrystallised from EtOAc-PE to furnish the title compound (40 mg, 53%): δH (CDCl3)=1.40–1.50 (m, 2H), 1.60–1.70 (m, 4H), 3.05 (t, 4H), 3.80 (s, 3H), 7.20 (s, 1H), 7.55 (d, 1H), 8.00 (dd, 1H), 8.20 (d, 1H); m/z (ES+)=375.1 [M +H]+.

reactant | 1-methyl-2-oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonyl chloride | 200 μmol, 65 mg | CN1C(C=C(C2=CC(=CC=C12)S(=O)(=O)Cl)C(F)(F)F)=O | C11H7ClF3NO3S
reactant | NEt3 | 220 μmol, 31 μL | CCN(CC)CC | C6H15N
reactant | piperidine | 210 μmol, 21 μL | N1CCCCC1 | C5H11N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 1-Methyl-6-(piperidine-1-sulfonyl)-4-trifluoromethyl-1H-quinolin-2-one | 40 mg, 53% | CN1C(C=C(C2=CC(=CC=C12)S(=O)(=O)N1CCCCC1)C(F)(F)F)=O | C16H17F3N2O3S
